Name:  ___ (MD)            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever, malaise
 
Major Surgical or Invasive Procedure:
___: Midline placement for IV antibiotics

 
History of Present Illness:
Dr. ___ is a ___ gastroenterologist with pmh 
rheumatic fever and asthma during childhood, HTN, gout, and 
recent diagnosis of an IgG lambda multiple myeloma (started 
velcade / dexamethasone on ___, who presented with fever to 
102.9, nausea, vomiting, and new ___.
 
His multiple myeloma was diagnosed with protein spike between 5 
and 6g, and he was recently enrolled in protocol ___ 
(blockade of PD-1 in conjunction with dendritic cell myeloma 
vaccines following stem cell transplantation. He started Cycle 1 
of Velcade/Dexamethasone on ___, with plan to receive Velcade 
1.3 mg/m2 on day 1, ___, ___, and 11 (and dexamethasone 20 mg p.o. 
on the day of and the day after his Velcade). Revlimid was not 
started given concern for toxicity, however this would have been 
started if his response was inadequate.
 
The patient recently returned from vacation in the ___ 
with his wife, where they had a very pleasant time. Dr. ___ 
presented to the clinic on the day of admission after having 
episodes of emesis the night before, associated with fever T 
102.9. He attended a birthday party that evening and consumed 2 
beers and a ___ food dinner.  He awoke in the middle of the 
night with chills and mild shakes.  Sometime between ___ he 
had 3 episodes of spontaneous emesis without nausea.  He did not 
have any nausea following the emesis.  Around 4:45AM his fever 
broke and he was diaphoretic.  He was able to take in ~3quarts 
of fluid, however his urine output has been minimal.  He 
continued to be febrile and diaphoretic on the day of admission, 
however improved with tylenol in clinic. Labs taken in clinic 
were significant for Cr 2.4 from baseline 1.3-1.4, Na 129, and 
WBC 11.6K (80% N, 10% bands). Given fever and recent travel and 
food consumption history, he was given 1G ceftriaxone in the 
clinic. He also received 1L NS in clinic.
 
He also complains of shortness of breath without cough. He 
denies diarrhea, abdominal cramping pain or nausea.  Reports 
diffuse body aches to his "back, muscles and testicles". He 
denies new bone or joint complaints.  No change in any urinary 
tract symptoms.  No headaches or visual disturbances.  No 
pulmonary or cardiac complaints.  No easy bruising or bleeding.
 
He has also had mild neuropathy in the fingertips, and received 
an EMG on ___ which showed median neuropathies at both 
wrists,  consistent with bilateral carpal tunnel syndrome. 

Infectious risk factors include recent contact with a colleague 
who may have had influenza, presence of pet turtles at home, 
dental cleaning on ___, eating raw cheese, recent cellulitis 
in the right MTP, and working as a ___ 
performing endoscopies.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
- Multiple myeloma diagnosed ___: presented with anemia and 
___, found to have protein spike between 5 and 6g, and he was 
recently enrolled in protocol ___ (blockade of PD-1 in 
conjunction with dendritic cell myeloma vaccines following stem 
cell transplantation. He started Cycle 1 of Velcade / 
Dexamethasone on ___, with plan to receive Velcade 1.3 mg/m2 
on day 1, 4, 8, and 11 (and dexamethasone 20 mg p.o. on the day 
of and the day after his Velcade). Revlimid was not started 
given concern for toxicity

PAST MEDICAL/SURGICAL HISTORY:  
- Rheumatic fever as a child
- Asthma during childhood (resolved)
- Allergies to pollen/cats during childhood (resolved)
- Hypertension ___
- Scalp laceration ___
- Sinus bradycardia ___
- Erectile dysfunction ___
- Gout ___
- Laryngopharyngeal reflux ___
 
Social History:
___
Family History:
Father and grandfather with hypertension.
 
Physical Exam:
ADMISSION
VS: 98.3, 113/82, 94, 18, 96/RA
GENERAL:  Diaphoretic with evident dyspnea wearing his mask 
while.  O2 sats 100%.
HEENT:  The sclerae are nonicteric.  The extraocular motions are
full.  There is no thrush or mucositis.
LYMPH NODES:  No peripheral lymphadenopathy.
LUNGS:  Clear to auscultation bilaterally without wheezes, 
rhonchi, or rales.
CARDIAC:  Showed a regular bradycardia with a normal S1 and S2. 
Baseline bradycardic.
ABDOMEN:  Soft, non-tender, non-distended.  There is no 
hepatosplenomegaly.
EXTREMITIES:  Lower extremities show no cyanosis, clubbing, or 
edema.
NEUROLOGIC:  Cranial nerves II through XII are normal.  Motor, 
sensory, and cerebellar exams are grossly normal.
 
DISCHARGE
VS: 98.3, 132/73, 74, 18, 96/RA
GENERAL: No acute distress, fully oriented, conversant
HEENT:  The sclerae are nonicteric.  The extraocular motions are 
full.  There is no thrush or mucositis.
LYMPH NODES:  No peripheral lymphadenopathy.
LUNGS:  Clear to auscultation bilaterally without wheezes, 
rhonchi, or rales.
CARDIAC:  Showed a regular bradycardia with a normal S1 and S2. 
Baseline bradycardic.
ABDOMEN:  Soft, non-tender, non-distended.  There is no 
hepatosplenomegaly.
EXTREMITIES:  Lower extremities show no cyanosis, clubbing, or 
edema.
NEUROLOGIC:  Cranial nerves II through XII are normal.  Motor, 
sensory, and cerebellar exams are grossly normal. ___ strength 
in lower extremities. Rectal tone intact. Gait limited by right 
lower back pain.
 
Pertinent Results:
ADMISSION
___ 08:00AM   WBC-7.9# RBC-3.58* HGB-11.8* HCT-35.2* MCV-98 
MCH-33.0* MCHC-33.5 RDW-16.6*
___ 08:00AM   NEUTS-79.8* LYMPHS-13.9* MONOS-5.2 EOS-0.9 
BASOS-0.2
___ 08:00AM   PLT COUNT-221
___ 08:00AM   CALCIUM-8.8 URIC ACID-6.1
___ 08:00AM   ALT(SGPT)-35 AST(SGOT)-32 ALK PHOS-51 TOT 
BILI-0.2
___ 08:00AM   UREA N-44* CREAT-1.4*
___ 02:50PM   PLT SMR-NORMAL PLT COUNT-181
___ 02:50PM   HYPOCHROM-NORMAL ANISOCYT-1+ POIKILOCY-NORMAL 
MACROCYT-1+ MICROCYT-NORMAL POLYCHROM-NORMAL
___ 02:50PM   NEUTS-80* BANDS-10* LYMPHS-2* MONOS-6 EOS-0 
BASOS-0 ___ METAS-2* MYELOS-0
___ 02:50PM   WBC-11.6* RBC-3.45* HGB-11.2* HCT-33.9* 
MCV-98 MCH-32.4* MCHC-32.9 RDW-17.0*
___ 02:50PM   HAV Ab-NEGATIVE IgM HAV-NEGATIVE
___ 02:50PM   CALCIUM-7.8* MAGNESIUM-1.6
___ 02:50PM   ALT(SGPT)-37 AST(SGOT)-49* LD(LDH)-188 ALK 
PHOS-45 TOT BILI-0.3
___ 02:50PM   UREA N-55* CREAT-2.4* SODIUM-129* 
POTASSIUM-4.3 CHLORIDE-97 TOTAL CO2-20* ANION GAP-16
___ 03:00PM URINE  RBC-7* WBC-<1 BACTERIA-FEW YEAST-NONE 
EPI-0
___ 03:00PM URINE  HYALINE-6*
___ 03:00PM URINE  BLOOD-TR NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 03:00PM URINE  COLOR-Yellow APPEAR-Clear SP ___
 
MR ___ ___: No definite evidence for discitis, 
osteomyelitis, or epidural abscess.  Changes at the superior 
aspect of L4 vertebral body are likely to be degenerative in 
nature.  However, clinical correlation is advised.  Possibility 
of superimposed infection cannot be entirely excluded, although 
it is felt to be less likely as is trauma. There is a mildly 
enhancing 10 mm soft tissue abutting the exiting nerve root in 
the neural foramen on the right at L4-5. This could represent 
focal myelomatous deposit. 
 
TRANSTHORACIC ECHO ___: The left atrium is mildly dilated. 
Left ventricular wall thicknesses and cavity size are normal. 
Due to suboptimal technical quality, a focal wall motion 
abnormality cannot be fully excluded. Overall left ventricular 
systolic function is low normal (LVEF 50-55%). Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. No 
masses or vegetations are seen on the aortic valve. The mitral 
valve leaflets are structurally normal. No mass or vegetation is 
seen on the mitral valve. Mild (1+) mitral regurgitation is 
seen. The pulmonary artery systolic pressure could not be 
determined. There is no pericardial effusion. IMPRESSION: 
Suboptimal image quality. Mild mitral regurgitation with normal 
valve morphology. Normal biventricular cavity sizes with low 
normal left ventricular systolic function. No focal vegetations 
identified. Compared with the prior study (images review) of 
___, the left ventricle is less vigorous. Mild mitral 
regurgitation was also present on the prior study (clip 56).  
 
CXR ___: No evidence of acute cardiopulmonary process within 
the limitations of this study technique.  PA and lateral 
radiographs may be entertained if possible for even better 
assessment of the lung parenchyma and to exclude subtle 
pneumonia. 

PERTINENT RESULTS
___ 02:50PM BLOOD HAV Ab-NEGATIVE IgM HAV-NEGATIVE
___ 02:02PM URINE Color-Straw Appear-Clear Sp ___
___ 02:02PM URINE Blood-SM  Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 02:02PM URINE RBC-3* WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0
___ 03:00PM URINE CastHy-6*
 
MICRO:
   Blood Culture, Routine (Final ___: 
      BETA STREPTOCOCCUS GROUP B.    FINAL SENSITIVITIES. 
         Sensitivity testing performed by Sensititre. 
         CLINDAMYCIN = <= 0.12 MCG/ML. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             BETA STREPTOCOCCUS GROUP B
                             |   
CLINDAMYCIN-----------       S
ERYTHROMYCIN----------<=0.25 S
PENICILLIN G----------<=0.06 S
VANCOMYCIN------------   <=1 S

- Urine legionella: negative
- Urine culture ___: no growth
- Blood culture ___ - ___: pending (no growth to date)
- Flu / RSV panel: negative
 
DISCHARGE
___ 06:00AM BLOOD WBC-6.1 RBC-3.77* Hgb-11.9* Hct-36.2* 
MCV-96 MCH-31.5 MCHC-32.8 RDW-16.6* Plt ___
___ 06:00AM BLOOD Neuts-87* Bands-0 Lymphs-8* Monos-5 Eos-0 
Baso-0 ___ Myelos-0
___ 06:00AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-1+ Microcy-NORMAL Polychr-NORMAL
___ 06:00AM BLOOD Plt Smr-NORMAL Plt ___
___ 06:00AM BLOOD Glucose-104* UreaN-25* Creat-1.0 Na-135 
K-4.5 Cl-106 HCO3-23 AnGap-11
___ 06:00AM BLOOD ALT-38 AST-30 LD(LDH)-147 AlkPhos-47 
TotBili-0.2
___ 06:00AM BLOOD Albumin-3.0* Calcium-8.6 Phos-4.3# Mg-1.7
___ 02:50PM BLOOD HAV Ab-NEGATIVE IgM HAV-NEGATIVE
 
Brief Hospital Course:
___ gastroenterologist with rheumatic fever and asthma during 
childhood, HTN, gout, and recent diagnosis of an IgG lambda 
multiple myeloma (without bony lesions, started velcade / 
dexamethasone on ___, who presented with fever to 102.9, 
nausea, vomiting, and new ___.
 
# Group B Strep bacteremia: He presented with fever to 102.9 in 
the setting of recently starting chemotherapy for his myeloma as 
well as having a dental cleaning. Blood cultures grew Group B 
strep in ___ bottles on admission, found to be pan-sensitive. He 
was started on IV ceftriaxone, and also received prophylactic 
doses of vancomycin and daptomycin (for GPCs prior to 
speciation). A midline was placed for long term antibiotics. An 
echocardiogram did not show evidence of endocarditis. He also 
had lower back pain, and received an MRI which showed 
degenerative disease on L4 vertebral body. He will need a 
gallium scan as an outpatient to rule out osteomyelitis at this 
location. He will follow up with infectious disease to determine 
the course of antibiotics (planned 2 week course until ___. 

 
# Lower back pain / urinary retention: He developed acute right 
lower back pain with urinary retention. He received a foley 
temporarily with relief of his symptoms. A lumbar MRI showed 
degenerative changes at L4, however no definitive evidence for 
discitis, osteomyelitis, or epidural abscess. There was also a 
10 mm lesion on the right L4-5 nerve root, which likely was 
responsible for his symptoms. He was treated with oral dilaudid, 
early ambulation, and his foley was removed without difficulty. 
Neurosurgery was consulted, however did not recommend surgical 
intervention. He did not have persistent neurologic deficits or 
lower extremity weakness. At the time of discharge, his back 
pain and urinary retention had resolved.
 
# Acute on chronic kidney diease: His Cr was 2.4 on admission 
from 1.3-1.4 at baseline. In the setting of nausea / vomiting, 
this was likely pre-renal. He was treated with IV fluids, and 
his renal function improved. His lisinopril was held, and was 
restarted on discharge. His Cr at discharge was 1.0.
  
# Multiple myeloma: He was recentely diagnosed in ___, with 
protein spike between 5 and 6g, and was enrolled in protocol 
___ (blockade of PD-1 in conjunction with dendritic cell 
myeloma vaccines following stem cell transplantation). He 
started Cycle 1 of Velcade/Dexamethasone on ___, with plan to 
receive Velcade 1.3 mg/m2 on day 1, 4, 8, and 11 (and 
dexamethasone 20 mg p.o. on the day of and the day after his 
Velcade). Revlimid was not started given concern for toxicity. 
He received velcade on day 8 on this admission, and will receive 
his final dose on day 11 on ___. He developed bilateral median 
neuropathy from his velcade infusion, and should receive 
subcutaneous velcade in the future.
 
# Gout: He has chronic left hallus gout with erythema and 
swelling, however this was stable and improved compared. He was 
continued on allopurinol and colchicine.
 
# HTN: stable. His lisinopril was held and restarted on 
discharge. His aspirin 81 was held while on chemotherapy
 
TRANSITIONAL ISSUES
 
# Dr. ___ was admitted for fevers, and was found to have group 
B strep bacteremia. He was started on IV ceftriaxone, and will 
need a 2-week course until ___, at which time he will follow 
up in clinic with infectious disease.
 
# He is scheduled for gallium scan on ___ to evaluate for 
osteomyelitis of the L4 vertebral body. Please follow up on this 
scan and adjust his therapy as appropriate.
 
# He will need a repeat TTE before ___ to evaluate for 
endocarditis. A TTE performed during this admission did not show 
evidence of vegetations.
 
# He will need velcade therapy on ___ to complete his first 
cycle of velcade / dexamethasone for his multiple myeloma. He 
developed bilateral median neuropathy from his velcade infusion, 
and should receive subcutaneous velcade in the future. Please 
monitor for side effects and response to this treatment.
 
# EMERGENCY CONTACT: ___ (wife) ___ 
___ (cell)
 
# CODE: Full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO DAILY  Research protocol ___
2. Allopurinol ___ mg PO DAILY  Research protocol ___
3. Colchicine 0.6 mg PO BID  Research protocol ___
4. Dexamethasone 20 mg PO DAILY  Research protocol ___
Day of and day after velcade 

 
Discharge Medications:
1. Colchicine 0.6 mg PO BID  *Research Pharmacy Approval 
Required* Research protocol ___
2. Dexamethasone 20 mg PO DAY OF AND DAY AFTER EACH VELCADE DOSE 
 *Research Pharmacy Approval Required* Research protocol ___
3. Lisinopril 5 mg PO DAILY  *Research Pharmacy Approval 
Required* Research protocol ___
4. Senna 1 TAB PO BID:PRN constipation  *Research Pharmacy 
Approval Required* Research protocol ___
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice daily Disp 
#*20 Capsule Refills:*1
5. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice daily Disp 
#*20 Tablet Refills:*1
6. CeftriaXONE 2 gm IV Q24H 
RX *ceftriaxone 2 gram 2 gm IV Q24H Disp #*14 Each Refills:*0
7. Acyclovir 400 mg PO Q8H 
RX *acyclovir 400 mg 1 tablet(s) by mouth every 8 hours Disp 
#*45 Tablet Refills:*1
8. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
RX *bisacodyl 5 mg 2 tablet(s) by mouth daily Disp #*20 Tablet 
Refills:*1
9. Bortezomib 2.7 mg IV Days 1, 4, 8 and 11. ___, 
___ and ___
 (1.3 mg/m2) 
10. Allopurinol ___ mg PO DAILY 
11. HYDROmorphone (Dilaudid) ___ mg PO Q6H:PRN pain 
Hold for sedation. Do not take prior to driving, operating 
machinery, or performing procedures. 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth every 6 
hours Disp #*10 Tablet Refills:*0
12. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
13. Pyridoxine 50 mg PO DAILY 
RX *pyridoxine 50 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*1

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
- Group B Strep bacteremia
 
Secondary:
- Multiple Myeloma
- Acute kidney injury
- Urinary retention

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___,
 
___ was a pleasure taking care of you at the ___. You were 
admitted for fevers, and were found to have a bacterial 
bloodstream infection (Group B Strep), likely from 
instrumentation during your dental procedure. You were treated 
with IV antibiotics (ceftriaxone, vancomycin, daptomycin), and 
your symptoms improved. You should continue IV ceftriaxone for 
at least two weeks, and will follow up in ___ clinic to determine 
the need for additional therapy. In addition, you should have a 
repeat echocardiogram in 2 weeks to evaluate for infectious 
seeding of your heart valves. You should return on ___ for a 
gallium scan of your lumbar spine. 
  
You also had lower back pain. A lumbar MRI showed degenerative 
changes at the superior L4 vertebral body, as well as a small 
(10 mm) area of soft tissue abutting the L4-5 nerve root. Both 
of these lesions are likely related to your myeloma, but 
infection and trauma could not be ruled out. You were continued 
on treatment of your multiple myeloma with velcade and 
dexamethasone, and will follow up in ___ clinic for 
additional treatment on ___.  
 
You also had acute kidney injury from dehydration and infection, 
and responded well to IV fluids. Please continue to drink at 
least 1.5L of fluids daily.
 
Followup Instructions:
___